data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_326327_1,[C:1]([C:5]1([C:9](=[C:2]([H:20])[H:21])[H:16])[N:3]([H:10])[C:4]1([N:6]([H:11])[H:12])[C:8]([N:7]([H:13])[H:14])([H:15])[H:22])([H:17])([H:18])[H:19]>>[C:1](/[C:5]([N:3](/[C:4]([N:6]([H:11])[H:12])=[C:8](\[N:7]([H:13])[H:14])[H:15])[H:10])=[C:9](/[C:2]([H:20])([H:21])[H:22])[H:16])([H:17])([H:18])[H:19],31.007285000008125
MR_403585_1,[C:1]1([C:4]([O:6][C:2]([H:10])([H:11])[H:12])=[O:8])([H:9])[C:5]([C:3]([H:13])([H:14])[H:15])=[N:7]1>>[C:1]1([H:9])=[N:7][C:5]1([C:3]([H:13])([H:14])[H:15])[C:4]([O:6][C:2]([H:10])([H:11])[H:12])=[O:8],62.76631499997308
MR_532232_1,[C:1](/[N:2]=[C:3](\[C:4]([O:5][H:8])([N:6]=[O:7])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:2](/[C:3](=[C:4](/[O:5][H:8])[H:10])[H:9])[N:6]=[O:7])([H:11])([H:12])[H:13],27.825232499980785
MR_505795_0,[C:1]([N:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])([N:5]([H:13])[H:14])([N:6]([H:15])[H:16])[N:8]=[C:7]([H:17])[H:18]>>[C:1]([N:2]([N:3]([H:9])[H:10])[N:8]=[C:7]([H:17])[H:18])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[N:6]([H:15])[H:16],71.4013425000013
MR_503107_1,[C:1]([C:5]([C:3]([O:8][H:11])=[O:10])/[N:9]=[C:4](/[N:6]([H:12])[H:13])[C:7]([C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:5]1[C@:4]([N:6]([H:12])[H:13])([C@@:7]([C:2]([H:18])([H:19])[H:20])([C:3]([O:8][H:11])=[O:10])[H:14])[N:9]1)([H:15])([H:16])[H:17],48.73667000001063
MR_352747_0,[C:1]1(/[C:5]([N:7]([H:11])[H:12])=[C:8](/[C:4]([H:18])([H:19])[H:20])[H:17])([N:6]([H:9])[H:10])[C:2]([H:13])([H:14])[C:3]1([H:15])[H:16]>>[C:1]1([N:6]([H:9])[H:10])=[C:5]([N:7]([H:11])[H:12])[C@@:8]([C:4]([H:18])([H:19])[H:20])([H:17])[C:3]([H:15])([H:16])[C:2]1([H:13])[H:14],45.48935750000538
MR_4188_0,[C:1]([N:5]=[C:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8]>>[C:1]([N:5]([C:4](=[C:2]([H:12])[H:13])[C:3]([H:9])([H:10])[H:11])[H:14])([H:6])([H:7])[H:8],62.51029500001309
MR_253416_2,[C:1]([C:3]([N:2]([N:4]([H:12])[H:13])[O:6][H:9])=[O:8])([N:5]([H:14])[H:15])([O:7][H:10])[H:11]>>[C:1]1([O:7][H:10])([H:11])[C:3]([N:2]([N:4]([H:12])[H:13])[O:6][H:9])([N:5]([H:14])[H:15])[O:8]1,51.96327499999683
MR_569724_0,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:3]([O:5][H:8])[N:6]=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:4]1([C:2]([H:12])([H:13])[H:14])[C:3]([O:5][H:8])=[N:6][O:7]1)([H:9])([H:10])[H:11],32.7467150000038
MR_474977_1,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])([N:4]([O:7][H:8])[H:9])([N:5]([H:11])[H:12])[N:6]([H:10])[H:13]>>[C:1]([N:4]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])[H:9])([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])[O:7][H:8],57.381737499977845
MR_636703_1,[C:1]([N:3]([C:2]([H:17])([H:18])[H:19])[C:6](=[O:9])[H:13])(/[C:4]([N:5]([H:11])[H:12])=[C:7](/[O:8][H:10])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:3]([C:2]([H:17])([H:18])[H:19])[C@:4]1([N:5]([H:11])[H:12])[C@@:7]([C:6](=[O:9])[H:13])([O:8][H:10])[H:16],60.51107999999559
MR_614322_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([C:4]([N:5]([H:12])[H:13])=[O:9])[H:11])([C:6](=[C:7]([H:18])[H:19])[H:14])[O:8][H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([C:4]([N:5]([H:12])[H:13])([C:6](=[C:7]([H:18])[H:19])[H:14])[O:9][H:10])[H:11])=[O:8],72.42102999999503
MR_377880_2,[C:1]([C:5]1([C:3]([O:7][H:10])=[O:8])[C:4]([O:9][H:12])([H:11])[C:6]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5](=[C:3]([O:7][H:10])[O:8][H:11])/[C:4](=[C:6](\[C:2]([H:17])([H:18])[H:19])[H:13])[O:9][H:12])([H:14])([H:15])[H:16],71.97927000000462
MR_618790_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3](/[C:5](=[N:7]/[N:4]([H:9])[H:10])[H:11])[O:6][H:8])([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:7]([N:4]([H:9])[H:10])[C:5]([N:3][O:6][H:8])[H:11])([H:12])[H:13],62.6734450000292
MR_261846_0,[C:1](/[C:3](=[C:2](\[N:5]([H:10])[H:11])[O:7][N:4]([H:8])[H:9])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:2](=[C:3](\[N:6]([H:12])[H:13])[O:7][N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:14])([H:15])[H:16],70.1538724999763
MR_11398_2,[C:1]1([C:3]([C:6]([H:18])([H:19])[H:20])([C:7]([H:17])([H:21])[H:22])[H:10])([C:4]([H:11])([H:12])[H:13])[C:2]([C:5]([H:14])([H:15])[H:16])([H:9])[O:8]1>>[C:1]([C:2]([C:5]([H:14])([H:15])[H:16])([O:8][H:10])[H:9])(=[C:3]([C:6]([H:18])([H:19])[H:20])[C:7]([H:17])([H:21])[H:22])[C:4]([H:11])([H:12])[H:13],62.54167000000521
MR_268361_0,[C:1]1([C:4]([H:14])([H:15])[H:16])([N:7]([H:10])[H:11])[C:2]([N:6]([C:5]([H:17])([H:18])[H:19])[H:8])([H:9])[C:3]1([H:12])[H:13]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:9])([C:4]([H:14])([H:15])[H:16])([N:6]([C:5]([H:17])([H:18])[H:19])[H:8])[N:7]([H:10])[H:11],60.20234999999033
MR_98676_2,[C:1]([N:3]([H:9])[H:10])(/[C:4](=[N:6]\[N:2]([H:7])[H:8])[H:11])=[C:5]([H:12])[H:13]>>[C:1]1([N:3]([H:9])[H:10])=[C:4]([H:11])[N:6]([N:2]([H:7])[H:8])[C:5]1([H:12])[H:13],66.18242500001585
MR_112517_0,[C:1](/[C:2]([C:4](=[O:6])[H:9])=[C:5](\[N:3]([H:7])[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]1=[C:4]([H:9])[O:6][C:5]1([N:3]([H:7])[H:8])[H:10])([H:11])([H:12])[H:13],41.08117000000618
